US09193692B2
A. 5-Bromo-6-methylpicolinonitrile
3,6-Dibromo-2-methylpyridine (4.9 g, 19.53 mmol), copper(I)cyanide (1.75 g, 19.53 mmol) and N,N-dimethylformamide (20 mL) were combined in a sealable vessel with a stirbar. The resulting mixture was sealed, stirred vigorously and heated at 110° C. for 4 h. The resulting mixture was diluted with ethyl acetate, poured into a separatory funnel containing water and the layers were separated. The water layer was extracted with ethyl acetate twice. The combined organics were washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting solid was purified by silica gel chromatography (10% ethyl acetate in hexanes) to give the title compound as a white solid (1.88 g, 9.54 mmol, 49% yield). MS (ESI) m/z 197.3 [M]+.

reactant | 3,6-Dibromo-2-methylpyridine | 19.53 mmol, 4.9 g | BrC=1C(=NC(=CC1)Br)C | C6H5Br2N
reactant | copper(I)cyanide | 19.53 mmol, 1.75 g | [Cu]C#N
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-6-methylpicolinonitrile | 9.54 mmol, 1.88 g, 49% yield | BrC=1C=CC(=NC1C)C#N | C7H5BrN2
